US05981573
Preparation of 3-(ethoxycarbonyl)-4-hydroxy-4-[N-[(1RS,2RS)-1-methyl-2-(3,4-methylenedioxyphenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-{(E)-3-phenyl-2-propenyl}carbamoyl]-3-butenoic acid
37 mg of 3-(tert-butoxycarbonyl)-4-hydroxy-4-[N-[(1RS,2RS)-1-methyl-2-(3,4-methylenedioxyphenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-{(E)-3-phenyl-2-propenyl}carbamoyl]-3-butenoic acid prepared by reactions similar to those in Example 1 using N-{(E)-3-phenyl-2-propenyl}-[(1RS,2RS)-1-methyl-2-(3,4-methylenedioxyphenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]amine instead of N-{(E)-3-phenyl-2-propenyl}-[(1R,2R)-1-methyl-2-(3,4-methylenedioxyphenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]amine used as the starting material in Example 1 was dissolved in 10 ml of ethanol and refluxed together with 3.9 mg of hydroxylamine hydrochloride and 9.6 mg of pyridine under heating for 15 hours. The reaction solution was cooled to room temperature and evaporated to dryness under reduced pressure. The residue was purified by silica gel thin layer chromatography [Kieselgel™60F254, Art™5744; chloroform/methanol=10/1] to give 12 mg (yield: 34%) of the title compound as a colorless foamy substance.

reactant | 3-(tert-butoxycarbonyl)-4-hydroxy-4-[N-[(1RS,2RS)-1-methyl-2-(3,4-methylenedioxyphenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-{(E)-3-phenyl-2-propenyl}carbamoyl]-3-butenoic acid | 37 mg | C(C)(C)(C)OC(=O)C(CC(=O)O)=C(C(N(C\C=C\C1=CC=CC=C1)C(C(CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)C1=CC2=C(C=C1)OCO2)C)=O)O | C41H42N2O10
reactant | N-{(E)-3-phenyl-2-propenyl}-[(1RS,2RS)-1-methyl-2-(3,4-methylenedioxyphenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]amine | C1(=CC=CC=C1)/C=C/CNC(C(CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)C1=CC2=C(C=C1)OCO2)C | C31H30N2O4
reactant | hydroxylamine hydrochloride | 3.9 mg | Cl.NO
reactant | pyridine | 9.6 mg | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(ethoxycarbonyl)-4-hydroxy-4-[N-[(1RS,2RS)-1-methyl-2-(3,4-methylenedioxyphenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-{(E)-3-phenyl-2-propenyl}carbamoyl]-3-butenoic acid | 12 mg, yield: 34% | C(C)OC(=O)C(CC(=O)O)=C(C(N(C\C=C\C1=CC=CC=C1)C(C(CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)C1=CC2=C(C=C1)OCO2)C)=O)O | C39H38N2O10
